US03991106
Preparation of 7-[N-(4-Hydroxy-5-ethoxypentyl)methanesulfonamido]heptanoic Acid
To a solution of ethyl 7-[N-(4,5-epoxypentyl)-methanesulfonamido]heptanoate (7.0 g., 0.02 mole) in ethanol (150 ml.) is added sodium hydroxide (1.84 g., 0.046 mole) dissolved in water (15 ml.). This solution is stirred at room temperature for 18 hours, then concentrated to one-half volume under reduced pressure. Water (150 ml.) is added and this aqueous solution is extracted with ether (2 × 100 ml.). The aqueous layer is then acidified (dilute hydrochloric acid) and extracted with ethyl acetate (2 × 150 ml.). The organic phase is washed with brine, dried over sodium sulfate, then evaporated in vacuo. The yield of subject compound is 4.0 g. (54%) of pale yellow oil.

reactant | ethyl 7-[N-(4,5-epoxypentyl)-methanesulfonamido]heptanoate | 0.02 mole, 7.0 g | O1C(CCCN(S(=O)(=O)C)CCCCCCC(=O)OCC)C1 | C15H29NO5S
reactant | sodium hydroxide | 0.046 mole, 1.84 g | [OH-].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 7-[N-(4-Hydroxy-5-ethoxypentyl)methanesulfonamido]heptanoic Acid | OC(CCCN(S(=O)(=O)C)CCCCCCC(=O)O)COCC | C15H31NO6S
